US05157041
A solution of 1.58 g of N2 -[3(S)-(benzyloxyformamido)-4-(4-tert.butoxyphenyl)-2(R)-hydroxybutyl]-N1 -tert.butyl-L-prolinamide in 200 ml of ethanol was hydrogenated over 100 mg of 10% palladium-on-carbon for 4 hours. The catalyst was removed by filtration and the filtrate was evaporated to give an oil which was coupled with 0.74 g of N-(benzyloxycarbonyl)-L-asparagine in a manner analogous to that described in Example 1. The crude product was chromatographed on a column of silica gel using 10% methanol in dichloromethane for the elution. There was obtained 0.59 g of N2 -[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-4-(4-tert.butoxyphenyl)-2(R)-hydroxybutyl]-N1 -tert.butyl-L-prolinamide as a white solid; MS: m/e 654 [M+H]+.

reactant | N2 [3(S)-(benzyloxyformamido)-4-(4-tert.butoxyphenyl)-2(R)-hydroxybutyl]-N1 -tert.butyl-L-prolinamide | 1.58 g | N#N.C(C1=CC=CC=C1)OC(=O)N[C@H]([C@@H](C[C@@]1(N(CCC1)C(C)(C)C)C(=O)N)O)CC1=CC=C(C=C1)OC(C)(C)C
reactant | N-(benzyloxycarbonyl)-L-asparagine | 0.74 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(N)=O)C(=O)O | C12H14N2O5
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 100 mg | [Pd] | Pd
product | N2 [3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-4-(4-tert.butoxyphenyl)-2(R)-hydroxybutyl]-N1 -tert.butyl-L-prolinamide | 0.59 g | N#N.C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C[C@@]1(N(CCC1)C(C)(C)C)C(=O)N)O)CC1=CC=C(C=C1)OC(C)(C)C | InChI=1S/C35H51N5O7.N2/c1-33(2,3)40-18-10-17-35(40,31(37)44)21-28(41)26(19-23-13-15-25(16-14-23)47-34(4,5)6)38-30(43)27(20-29(36)42)39-32(45)46-22-24-11-8-7-9-12-24;1-2/h7-9,11-16,26-28,41H,10,17-22H2,1-6H3,(H2,36,42)(H2,37,44)(H,38,43)(H,39,45);/t26-,27-,28+,35+;/m0./s1
